US04511573
To 6.0 ml of a 2M solution of ethylmagnesium bromide in tetrahydrofuran under nitrogen at 0° is added dropwise over 20 minutes a solution of 2-(3-pyridyl)indole (1.9 g) in 12 ml of tetrahydrofuran. The mixture is stirred at 0° for 0.5 hour and is then treated with a solution of 1.78 g of 5-bromovaleronitrile in 4 ml of tetrahydrofuran. This mixture is stirred at 0° for 1 hour, then at room temperature for 1 hour, and is then poured into 125 ml of ice-water. This is extracted with 2×50 ml of ether, the extract is washed with water, dried, evaporated to dryness and purified to give 3-(4-cyanobutyl)-2-(3-pyridyl)indole.

reactant | ethylmagnesium bromide | C(C)[Mg]Br
reactant | 2-(3-pyridyl)indole | 1.9 g | N1=CC(=CC=C1)C=1NC2=CC=CC=C2C1 | C13H10N2
reactant | 5-bromovaleronitrile | 1.78 g | BrCCCCC#N | C5H8BrN
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | 3-(4-cyanobutyl)-2-(3-pyridyl)indole | C(#N)CCCCC1=C(NC2=CC=CC=C12)C=1C=NC=CC1 | C18H17N3
